US08067613B2
2-(6-pyrrolidin-2-ylpyridin-3-yl)-1H-benzimidazole-4-carboxamide
To a mixture of 6-(1-(tert-butoxycarbonyl)pyrrolidin-2-yl)nicotinic acid (3 g, 10.6 mmol) in pyridine (10 mL) and N,N-dimethylformamide (50 mL) at ambient temperature was added 1,1′-carbonyldiimidazole (2.2 g, 16 mmol). The mixture was heated at 40° C. for 1 hour, treated with 2,3-diaminobenzamide dihydrochloride (2.4 g, 10.6 mmol), stirred at ambient temperature, for 16 hours and concentrated. The residue was heated in acetic acid (100 mL) at 110° C. for 2 hours, cooled and concentrated. The residue was purified by flash chromatography on silica gel using ethyl acetate to provide the acyclic intermediate. This intermediate was dissolved in dichloromethane (100 mL) and trifluoroacetic acid (20 mL) and the mixture was stirred at room temperature for 16 hours and was concentrated. The residue was purified by HPLC (Zorbax C-8, 0.1% trifluoroacetic acid/acetonitrile/water) to provide the title compound. 1H NMR (methanol-d4) δ 2.04-2.36 (m, 3H), 2.49-2.74 (m, 1H), 3.39-3.72 (m, 2H), 4.98 (t, J=7.63 Hz, 1H), 7.17-7.49 (m, 1H), 7.69 (d, J=8.14 Hz, 1H), 7.81 (d, J=8.14 Hz, 1H), 7.99 (d, J=7.46 Hz, 1H), 8.64 (dd, J=8.31, 2.20 Hz, 1H), 9.42 (s, 1H).

reactant | 6-(1-(tert-butoxycarbonyl)pyrrolidin-2-yl)nicotinic acid | 10.6 mmol, 3 g | C(C)(C)(C)OC(=O)N1C(CCC1)C1=NC=C(C(=O)O)C=C1 | C15H20N2O4
reactant | 1,1′-carbonyldiimidazole | 16 mmol, 2.2 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2,3-diaminobenzamide dihydrochloride | 10.6 mmol, 2.4 g | Cl.Cl.NC1=C(C(=O)N)C=CC=C1N
reactant | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2-(6-pyrrolidin-2-ylpyridin-3-yl)-1H-benzimidazole-4-carboxamide | N1C(CCC1)C1=CC=C(C=N1)C1=NC2=C(N1)C=CC=C2C(=O)N | C17H17N5O
